US05541331
A 1.4 L hydrogenation shaker bomb was charged with 43.00 grams (0.165 moles) diphenyl-4-pyridylcarbinol, 8.00 grams 50% H2O wet 5% Pd on carbon (4 grams dry) and 350 ml xylene. The bomb was sealed, pressurized with 900 psi H2, and heated with shaking to 170° C. After 17 hours, the pressure was 1075 psi (at 170° C.) and the bomb was allowed to cool. The contents are poured out, heated to 70° C. and suction filtered carefully to remove the catalyst. GC analysis of the filtrate and washes at this point indicated 6.9% azacyclonol and 0.05% diphenyl-4-pyridylcarbinol. The filtrate was topped off on a rotary evaporator to a constant weight (42.65 grams). The sticky crude azacyclonol was removed and recrystallized from 200 ml heptane and 165 ml xylene. After chilling, filtration and over drying (2 hours, 100° C., 15 mm) a yield of 37.84 grams or 86.0% of azacyclonol was obtained, having a melting point of 163°-166° C.

reactant | diphenyl-4-pyridylcarbinol | 0.165 moles, 43.00 grams | C1(=CC=CC=C1)C(O)(C1=CC=NC=C1)C1=CC=CC=C1 | C18H15NO
reactant | H2O | 8.00 grams | O | H2O
solvent | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
product | azacyclonol | 86.0% | C=1C=CC(=CC1)C(C=2C=CC=CC2)(C3CCNCC3)O | C18H21NO
